* ch05_04_low_voltage_cascode_mirror: externally biased low-voltage cascode mirror
.include ../../models/educational_cmos.inc
Vout out 0 DC 1.0
Vb1 b1 0 DC 0.72
Vb2 b2 0 DC 1.02
M1 mid b1 0 0 NMOS W=10u L=0.18u
M2 out b2 mid 0 NMOS W=10u L=0.18u

.control
set noaskquit
set wr_singlescale
set wr_vecnames
set hcopydevtype=svg
dc Vout 0 1.8 0.005
plot -i(vout) vs v(out) title "ch05_04 IOUT-VOUT"
hardcopy ../../results/ch05_04_low_voltage_cascode_mirror.svg -i(vout) vs v(out)
wrdata ../../results/ch05_04_low_voltage_cascode_mirror.dat v(out) i(vout) v(mid)
quit
.endc
.end

